US04057413
100 g (1 mole) of 1-methyl-piperazine and 176.5 g (1 mole) of decyl chloride were heated under reflux, at an external temperature of 150° C, until the reaction mixture had ceased boiling. After cooling, the solid product was extracted by shaking with a mixture with 40 g (1 mole) of sodium hydroxide in 500 ml of water and 500 ml of isobutanol. The organic phase was separated off and concentrated, and the residue was extracted with petroleum ether. After evaporating the petroleum ether solution, 180 g (75% of theory) of 1-methyl-4-decyl-piperazine were obtained in a form which was pure according to thin layer chromatography.

reactant | 1-methyl-piperazine | 1 mole, 100 g | CN1CCNCC1 | C5H12N2
reactant | decyl chloride | 1 mole, 176.5 g | C(CCCCCCCCC)Cl | C10H21Cl
reactant | sodium hydroxide | 1 mole, 40 g | [OH-].[Na+]
solvent | water | 500 ml | O | H2O
solvent | isobutanol | 500 ml | C(C(C)C)O | C4H10O
product | 1-methyl-4-decyl-piperazine | 180 g, 75% | CN1CCN(CC1)CCCCCCCCCC | C15H32N2
